US05310743
(a) (2R*,4S*)-2-Benzyl-1-(4-quinolylmethyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
200 mg (0.468 mmol) of (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine are reacted in analogy to Example 11 with 88 mg (1.4 mmol) of sodium cyanoborohydride, 115 mg (1.4 mmol) of sodium acetate, 134 μl (2.34 mmol) of acetic acid and 294 mg (1.87 mmol) of quinoline-4-carboxaldehyde to give the product. TLC: methylene chloride/methanol/conc. ammonia (700:50:1) Rf =0.33, FD-MS: M+ =568.

reactant | (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 0.468 mmol, 200 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
reactant | sodium cyanoborohydride | 1.4 mmol, 88 mg | C(#N)[BH3-].[Na+]
reactant | sodium acetate | 1.4 mmol, 115 mg | C(C)(=O)[O-].[Na+]
reactant | acetic acid | 2.34 mmol, 134 μl | C(C)(=O)O | C2H4O2
reactant | quinoline-4-carboxaldehyde | 1.87 mmol, 294 mg | N1=CC=C(C2=CC=CC=C12)C=O | C10H7NO
reactant | ammonia | N | H3N
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | (2R*,4S*)-2-Benzyl-1-(4-quinolylmethyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)CC1=CC=NC2=CC=CC=C12 | C34H31F3N4O
